US07253154B2
(4) 2-(3-Cyano-4-isobutyloxyphenyl)-7-hydroxy-1,3-benzothiazole
Ethane thiol (0.45 mL, 6.08 mmol) was added to lithium metal (14 mg, 2.02 mmol), and the mixture was stirred for one hour at room temperature. To tire mixture were then added dry DMF (5 mL) and 2-(3-cyano-4-isobutyloxyphenyl)-7-methoxy-1,3-benzothiazole (150 mg, 0.44 mmol). The resulting mixture was stirred at 80° C. for 8.5 hours, cooled to room temperature, and, after addition of icewater (10 mL), made to pH 7 by addition of aqueous 1M hydrochloric acid. The mixture was then extracted with ethyl acetate (20 mL). The ethyl acetate portion was washed successively with water (10 mL) and aqueous saturated brine (10 mL), dried over anhydrous sodium sulfate, and placed under reduced pressure to distill the solvent off. The residue was purified by silica, gel column chromatography (ethyl acetate/hexane=1/3), and suspended in hexane. The obtained crystalline product was collected by filtration, washed with hexane, and dried in air, to give 17 mg (yield 12%) of the desired compound in the form of a pale yellow crystalline product.

reactant | Ethane thiol | 6.08 mmol, 0.45 mL | C(C)S | C2H6S
reactant | lithium | 2.02 mmol, 14 mg | [Li] | Li
reactant | 2-(3-cyano-4-isobutyloxyphenyl)-7-methoxy-1,3-benzothiazole | 0.44 mmol, 150 mg | C(#N)C=1C=C(C=CC1OCC(C)C)C=1SC2=C(N1)C=CC=C2OC | C19H18N2O2S
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(3-Cyano-4-isobutyloxyphenyl)-7-hydroxy-1,3-benzothiazole | 17 mg, yield 12% | C(#N)C=1C=C(C=CC1OCC(C)C)C=1SC2=C(N1)C=CC=C2O | C18H16N2O2S
